US04101548
4-Amino-6,7-dimethoxy-2-[4-(1,2,3-thiadiazole-4-carbonyl)piperazin-1-yl]quinazoline Hydrochloride
The title compound was prepared by reacting 1,2,3-thiadiazole-4-carbonyl chloride (D. L. Pain and R. Slack, J. Chem. Soc., 5166 (1965)) and 4-amino-6,7-dimethoxy-2-(1-piperazinyl)quinazoline according to the procedure of Example 1. After crystallization from aqueous ethanol, the title compound melted at 270° C. (dec.).

reactant | 1,2,3-thiadiazole-4-carbonyl chloride | S1N=NC(=C1)C(=O)Cl | C3HClN2OS
reactant | 4-amino-6,7-dimethoxy-2-(1-piperazinyl)quinazoline | NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCNCC1 | C14H19N5O2
product | 4-Amino-6,7-dimethoxy-2-[4-(1,2,3-thiadiazole-4-carbonyl)piperazin-1-yl]quinazoline Hydrochloride | Cl.NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCN(CC1)C(=O)C=1N=NSC1 | InChI=1S/C17H19N7O3S.ClH/c1-26-13-7-10-11(8-14(13)27-2)19-17(20-15(10)18)24-5-3-23(4-6-24)16(25)12-9-28-22-21-12;/h7-9H,3-6H2,1-2H3,(H2,18,19,20);1H
